US05817693
a) Ethyl2-Benzoyl-3-(4-hydroxyphenyl)propenoate
To a solution of 4-hydroxybenzaldehyde (31.7 g, 0.26 mol) and ethyl benzoylacetate (45.5 ml, 0.26 mol) in EtOH (45 ml) under an argon atmosphere was added piperidine (2.6 ml, 0.026 mol) and acetic acid (3 drops). After stirring at room temperature overnight, the resulting solid mixture was treated with hot EtOH (700 ml), and then allowed to cool. The crystals which formed were collected by filtration to afford the title compound (61.0 g, 79%).

reactant | 4-hydroxybenzaldehyde | 0.26 mol, 31.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ethyl benzoylacetate | 0.26 mol, 45.5 ml | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | piperidine | 0.026 mol, 2.6 ml | N1CCCCC1 | C5H11N
solvent | EtOH | 45 ml | CCO | C2H6O
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | EtOH | 700 ml | CCO | C2H6O
product | Ethyl2-Benzoyl-3-(4-hydroxyphenyl)propenoate | 61.0 g, 79% | C(C)OC(C(=CC1=CC=C(C=C1)O)C(C1=CC=CC=C1)=O)=O | C18H16O4
